US05504085
B. 3-Hydrazino-2-methoxy-6-nitroquinoxaline
A mixture of 3.4 g (14.2 mmol) of 3-chloro-2-methoxy-6-nitroquinoxaline and 1.65 g (33 mmol) of hydrazine hydrate in 150 ml of ethanol was stirred at room temperature over night. The precipitate was collected and washed with water and cold ethanol to give 3.13 g (94%) of crude product.

reactant | 3-chloro-2-methoxy-6-nitroquinoxaline | 14.2 mmol, 3.4 g | ClC=1C(=NC2=CC=C(C=C2N1)[N+](=O)[O-])OC | C9H6ClN3O3
reactant | hydrazine hydrate | 33 mmol, 1.65 g | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-Hydrazino-2-methoxy-6-nitroquinoxaline | 3.13 g, 94% | N(N)C=1C(=NC2=CC=C(C=C2N1)[N+](=O)[O-])OC | C9H9N5O3
